US06235731B1
3) Synthesis of 4-(4-phenylpiperidinomethyl)piperidine dihydrochloride
To a solution of 3.550 g (9.902 mM) of tert-butyl 4-(4-phenylpiperidinomethyl)piperidine-1-carboxylate in 30 ml of methanol was added 5 ml of concentrated hydrochloric acid and the mixture was stirred at room temperature for 3 hours. The solvent was then distilled off and the residue was crystallized from ethanol-diethyl ether to provide the title compound.

reactant | tert-butyl 4-(4-phenylpiperidinomethyl)piperidine-1-carboxylate | 9.902 mM, 3.550 g | C1(=CC=CC=C1)C1CCN(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C22H34N2O2
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 4-(4-phenylpiperidinomethyl)piperidine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C1CCN(CC1)CC1CCNCC1 | InChI=1S/C17H26N2.2ClH/c1-2-4-16(5-3-1)17-8-12-19(13-9-17)14-15-6-10-18-11-7-15;;/h1-5,15,17-18H,6-14H2;2*1H
